US06559172B1
a) Methanesulfonic Acid 3-(3-Trifluoromethyl-phenyl)-propyl Ester
In a manner analogous to the preparation of Example 83(a), 3-(3-trifluoromethyl-phenyl)-propan-1-ol (0.94 g, 4.61 mmol), Et3N (1.28 mL, 9.22 mmol) and MsCl (0.44 mL, 5.53 mmol) gave the desired compound as a light brown oil. 1H NMR (300 MHz, CDCl3) δ 2.10-2.16 (m, 2H), 2.82-2.86 (t, 2H) 3.02 (s, 3H), 4.24-4.28 (t, 2H), 7.38-7.52 (m, 4H).

reactant | 3-(3-trifluoromethyl-phenyl)-propan-1-ol | 4.61 mmol, 0.94 g | FC(C=1C=C(C=CC1)CCCO)(F)F | C10H11F3O
reactant | Et3N | 9.22 mmol, 1.28 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 5.53 mmol, 0.44 mL | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic Acid 3-(3-Trifluoromethyl-phenyl)-propyl Ester | FC(C=1C=C(C=CC1)CCCOS(=O)(=O)C)(F)F | C11H13F3O3S
